US04954165
Preparation of 2-(2-chloro-4-methanesulfonyl-3-methoxycarbonylbenzoyl)cyclohexane-1,3-dione (Compound No. 2)
0.28 g of potassium carbonate and 0.77 g of N,N'-dicyclohexylcarbodiimide were added to a solution mixture comprising 1.0 g of 2-chloro-4-methanesulfonyl-3-methoxycarbonyl benzoic acid, 0.38 g of 1,3-cyclohexane dione and 30 ml of t-amyl alcohol. The mixture was stirred at 80° C. for 3 hours. It was concentrated under reduced pressure, and an aqueous potassium carbonate solution was added thereto. Insoluble substances were removed by filtration. The filtrate was washed with chloroform, then acidified by an addition of concentrated hydrochloric acid and extracted with chloroform. The chloroform layer was washed with water and with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. Then, the solvent was distilled off under reduced pressure to obtain a crude desired product. This crude product was crystallized from ethanol to obtain 0.3 g of the desired product. Melting point: 160-162° C.

reactant | potassium carbonate | 0.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N'-dicyclohexylcarbodiimide | 0.77 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2-chloro-4-methanesulfonyl-3-methoxycarbonyl benzoic acid | 1.0 g | ClC1=C(C(=O)O)C=CC(=C1C(=O)OC)S(=O)(=O)C | C10H9ClO6S
reactant | 1,3-cyclohexane dione | 0.38 g | C1(CC(CCC1)=O)=O | C6H8O2
solvent | t-amyl alcohol | 30 ml | C(C)(C)(CC)O | C5H12O
product | 2-(2-chloro-4-methanesulfonyl-3-methoxycarbonylbenzoyl)cyclohexane-1,3-dione | 0.3 g | ClC1=C(C(=O)C2C(CCCC2=O)=O)C=CC(=C1C(=O)OC)S(=O)(=O)C | C16H15ClO7S
